US06166028
(2-Chloro-4-nitro-phenyl)-methyl-phenyl-amine
n-Butyl lithium (12.3 mL of a 2.5 M solution in hexanes) is added dropwise to a solution of N-methyl aniline (3.0 g) in tetrahydrofuran (75 mL) at 0° C. The mixture is allowed to warm slowly to room temperature and is then re-cooled to 0° C. and added by cannula to a solution of 3-chloro-4-fluoronitrobenzene (4.9 g) in tetrahydrofuran (35 mL) that is kept at -78° C. Following the addition, the reaction mixture is permitted to warm to room temperature over the course of 1 hour, and is then concentrated under reduced pressure, quenched by addition of saturated aqueous ammonium chloride, and extracted three times with ethyl acetate. The pooled organic layers are washed three times with 5% aqueous hydrochloric acid, once with water, once with saturated aqueous sodium bicarbonate, once with saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. Following removal of the solvent under reduced pressure the residue is chromatographed over silica gel (5% diethyl ether in hexanes is used as the eluant) to provide the desired product as a clear colorless oil.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | N-methyl aniline | 3.0 g | CNC1=CC=CC=C1 | C7H9N
reactant | 3-chloro-4-fluoronitrobenzene | 4.9 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | (2-Chloro-4-nitro-phenyl)-methyl-phenyl-amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])N(C1=CC=CC=C1)C | C13H11ClN2O2
